US06316494B1
(±)-cis-7-Hydroxy-4-(4-(2-pyrrolidinoethoxy)phenyl)-3-(4-(trifluoromethyl)phenyl)-chromane
In an manner analogous to that described in step 5 for Example 10, (±)-cis-7-methoxy-4-(4-(2-pyrrolidinoethoxy)phenyl)-3-(4-(trifluoromethyl)phenyl)chromane (0.30 g, 0.60 mmol) was de-methylated by heating with pyridine hydrochloride to give the title compound as a colourless powder.

reactant | (±)-cis-7-methoxy-4-(4-(2-pyrrolidinoethoxy)phenyl)-3-(4-(trifluoromethyl)phenyl)chromane | 0.60 mmol, 0.30 g | COC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)OCCN1CCCC1 | C29H30F3NO3
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
product | (±)-cis-7-Hydroxy-4-(4-(2-pyrrolidinoethoxy)phenyl)-3-(4-(trifluoromethyl)phenyl)-chromane | OC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)OCCN1CCCC1 | C28H28F3NO3
